US09371320B2
B) (4-(1-(2,6-difluorophenyl)-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)acetonitrile
To a solution of (4-(1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)acetonitrile (140 mg) in acetonitrile (6 mL) were added sodium iodide (139 mg) and chloro(trimethyl)silane (0.475 mL), and the mixture was stirred at 50° C. for 1 hr. To the reaction mixture was added saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (basic silica gel, hexane/ethyl acetate to ethyl acetate) to give the title compound (80.2 mg).

reactant | (4-(1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)acetonitrile | 140 mg | FC1=C(C(=CC=C1)F)N1N=C(C=2C(=NC=CC21)OC)C2=CC=C(C=C2)CC#N | C21H14F2N4O
reactant | sodium iodide | 139 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 0.475 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | (4-(1-(2,6-difluorophenyl)-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)acetonitrile | 80.2 mg | FC1=C(C(=CC=C1)F)N1N=C(C=2C(NC=CC21)=O)C2=CC=C(C=C2)CC#N | C20H12F2N4O
